US07781478B2
4-(3-cyano-1-ethyl-6-trifluoromethyl-1H-indol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester (0.26 g, 6.1 mmol) is treated with TFA (5 mL) in dichloromethane (5 mL) for 1 h at room temperature. After the removal of the volatiles, the residue is treated with saturated NaHCO3 and the precipitate is collected via filtration, washed with water thoroughly and dried in air to furnish essentially pure 1-ethyl-2-piperazin-1-yl-6-(trifluoromethyl)-1H-indole-3-carbonitrile (0.20 g, 100%).

reactant | 4-(3-cyano-1-ethyl-6-trifluoromethyl-1H-indol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 6.1 mmol, 0.26 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1N(C2=CC(=CC=C2C1C#N)C(F)(F)F)CC | C21H25F3N4O2
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-ethyl-2-piperazin-1-yl-6-(trifluoromethyl)-1H-indole-3-carbonitrile | 0.20 g, 100% | C(C)N1C(=C(C2=CC=C(C=C12)C(F)(F)F)C#N)N1CCNCC1 | C16H17F3N4
